US04220761
Allyl bromide (2.91 g) was added dropwise to a stirred suspension of ethyl 2-(2-tritylaminothiazol-4-yl)-2-hydroxyiminoacetate (syn isomer, 10 g), N,N-dimethylformamide (100 ml) and potassium carbonate (4.54 g) under ice cooling over 5 minutes, and stirred at the same temperature for 4 hours. After adding water (200 ml) to the resultant solution, the solution was extracted with diethyl ether twice. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solution was concentrated in vacuo, and the residue was triturated with a solution of n-hexane and diethyl ether. The precipitates were collected by filtration to give ethyl 2-(2-tritylaminothiazol-4-yl)-2-allyloxyiminoacetate (syn isomer, 9.4 g), mp. 130° to 132° C.

reactant | Allyl bromide | 2.91 g | C(C=C)Br | C3H5Br
reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-hydroxyiminoacetate | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NO | C26H23N3O3S
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 4.54 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 ml | O | H2O
product | ethyl 2-(2-tritylaminothiazol-4-yl)-2-allyloxyiminoacetate | 9.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NOCC=C | C29H27N3O3S
